US07659268B2
A solution of methyl 6-amino-2-(3-(tert-butoxycarbonyl)phenyl)nicotinate (400 mg, 1.2 mmol) and 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (630 mg, 2.4 mmol) in pyridine (12 mL) was stirred at room temperature for 3 days and then at 90° C. for 7 hours. Additional 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (320 mg, 1.2 mmol) was added and the reaction was heated at 90° C. for 12 hours until the amine was completely consumed. The reaction mixture was concentrated and the residue was purified by column chromatography (0-40% ethyl acetate—hexanes). The material obtained was dissolved in CH2Cl2 and was washed with 1N HCl (×3) and saturated aq. NaHCO3 (×3), dried (MgSO4) and concentrated to yield methyl 2-(3-(tert-butoxycarbonyl)phenyl)-6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)nicotinate as a cream colored solid (450 mg, 67%). ESI-MS m/z calc. 552.2, found 553.3 (M+1)+. Retention time 2.49 minutes. 1H NMR (400 MHz, DMSO-d6) δ 9.54 (s, 1H), 8.24 (d, J=8.7 Hz, 1H), 8.12 (d, J=8.7 Hz, 1H), 7.95-7.91 (m, 2H), 7.64 (d, J=7.9 Hz, 1H), 7.57-7.51 (m, 2H), 7.39 (d, J=8.3 Hz, 1H), 7.34 (dd, J=1.6, 8.3 Hz, 1H), 3.63 (s, 3H), 1.54 (m, 11H), 1.22-1.19 (m, 2H).

reactant | methyl 6-amino-2-(3-(tert-butoxycarbonyl)phenyl)nicotinate | 1.2 mmol, 400 mg | NC1=NC(=C(C(=O)OC)C=C1)C1=CC(=CC=C1)C(=O)OC(C)(C)C | C18H20N2O4
reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 2.4 mmol, 630 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 1.2 mmol, 320 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 2-(3-(tert-butoxycarbonyl)phenyl)-6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)nicotinate | 450 mg, 67% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=C(C(=O)OC)C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1 | C29H26F2N2O7
